US09056874B2
tert-Butyl 4-allyl-5-methoxy-7-methyl-1H-indole-1-carboxylate
4-Allyl-5-methoxy-7-methyl-1H-indole (6.4 g, 31.8 mmol) was dissolved in acetonitrile (106 mL) and then Boc2O (11.07 mL, 47.7 mmol) was added followed by DMAP (0.039 g, 0.318 mmol). The reaction was then stirred at room temperature overnight. The reaction was concentrated and absorbed onto silica and then purified by silica gel flash chromatography (0-50% ethyl acetate/heptanes) to provide the title compound. MS (ESI+) m/z 302.19 (M+H).

reactant | 4-Allyl-5-methoxy-7-methyl-1H-indole | 31.8 mmol, 6.4 g | C(C=C)C1=C2C=CNC2=C(C=C1OC)C | C13H15NO
reactant | Boc2O | 47.7 mmol, 11.07 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 106 mL | C(C)#N | C2H3N
catalyst | DMAP | 0.318 mmol, 0.039 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-Butyl 4-allyl-5-methoxy-7-methyl-1H-indole-1-carboxylate | C(C=C)C1=C2C=CN(C2=C(C=C1OC)C)C(=O)OC(C)(C)C | C18H23NO3
